US07829560B2
3-Fluoro-N-[4-({2-[(2-methoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B370).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and (2-methoxy-ethyl)-methylamine according to conditions described in general procedure C. Mp: 96-98° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.90-3.15 (m, 4 H), 3.27 (t, J=4.8 Hz, 4 H), 3.20-3.40 (m, 6 H), 3.77 (t, J=4.8 Hz, 4 H), 6.28 (s, 1H), 7.05 (d, J=12.4 Hz, 1H), 7.27 (d, J=8.7 Hz, 1H), 7.43-7.62 (m, 5 H), 7.82 (s, 1H), 8.00 (d, J=7.7 Hz, 1H), 8.26 (d, J=5.1Hz, 1H), 10.47 (s, 1H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | (2-methoxy-ethyl)-methylamine | COCCNC | C4H11NO
product | 3-Fluoro-N-[4-({2-[(2-methoxyethyl)(methyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N(C)CCOC)C=C(C1)N1CCOCC1 | C29H30FN5O4
